US05231223
117 g of amyl nitrite are added slowly to a solution, cooled to about 10° C., of 123 g of p-anisidine and 100 ml of conc. H2SO4 in 400 ml of methanol and the mixture is stirred without cooling for a further 40 minutes after addition is complete It is treated with 95 g of methyl acrylate and 112 mg of Pd(OAc)2 and heated to about 55° C. until evolution of gas has ended. After cooling, the solid is filtered off with suction, washed with water and dried at 40° C. 167 g (87%) of methyl p-methoxycinnamate are obtained, m.p. 88°-89° C., Lit 89° C.

reactant | amyl nitrite | 117 g | N(=O)OCCCCC | C5H11NO2
reactant | p-anisidine | 123 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
reactant | methyl acrylate | 95 g | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 400 ml | CO | CH4O
catalyst | Pd(OAc)2 | 112 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl p-methoxycinnamate | 167 g, 87% | COC1=CC=C(C=CC(=O)OC)C=C1 | C11H12O3
